US06150362
1-[(4-cyanophenyl)sulfonyl]piperidine
A mixture of 4-cyanobenzenesulfonyl chloride (0.51 g, 2.5 mmol) and piperidine (0.60 mL, 517 mg, 6.04 mmol) in 10 mL methylene chloride was stirred overnight at ambient temperature. The organic layer was washed successively with water, 5% HCl and brine, dried (Na2SO4) and concentrated. The resulting white solid (0.61 g, 96%) was used with no further purification.

reactant | 4-cyanobenzenesulfonyl chloride | 2.5 mmol, 0.51 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | piperidine | 6.04 mmol, 0.60 mL, 517 mg | N1CCCCC1 | C5H11N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[(4-cyanophenyl)sulfonyl]piperidine | C(#N)C1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C12H14N2O2S
